US03987047
11-methoxy-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline was prepared from 11-methoxy-1,2,4,5-tetrahydro-3-azepino[4,5-b] quinoline-carboxylic acid ethyl ester by hydrolysis with semiconcentrated hydrochloric acid. Yield: 7% of theory; m.p. 112° C.

reactant | 11-methoxy-1,2,4,5-tetrahydro-3-azepino[4,5-b] quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)OC | C17H20N2O3
reactant | hydrochloric acid | Cl | ClH
product | 11-methoxy-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | Yield: 7% | COC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2O
